US06107458
A solution of 4-[4-(8-Bromooctyloxy)phenyl]bromobenzene (3.7 g) in a mixture of sodium methoxide (4.9M in methanol, 17 ml), N,N-dimethylformamide (20 ml) and tetrahydrofuran (8 ml) was heated to 80° C. for 3 hours. The reaction mixture was taken up into a mixture of ethyl acetate (200 ml) and water (100 ml). The separated organic layer was washed in turn with water, brine, dried over magnesium sulfate. Evaporation gave a residue which was subjected to column chromatography (silica gel, 100 ml) eluting with n-hexane to give 4-[4-(8-Methoxyoctyloxy)phenyl]bromobenzene (2.73 g).

reactant | 4-[4-(8-Bromooctyloxy)phenyl]bromobenzene | 3.7 g | BrCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C20H24Br2O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium methoxide | 4.9M, 17 ml | C[O-].[Na+]
solvent | water | 100 ml | O | H2O
product | 4-[4-(8-Methoxyoctyloxy)phenyl]bromobenzene | 2.73 g | COCCCCCCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C21H27BrO2
